US09380782B2
Under ice-cooling, to a mixture of N,N-dimethylformamide 350 mL and anhydrous aluminum chloride 33.6 g was added sodium azide 15 g, and the resulting mixtures were stirred for one hour. Thereto was thereafter added 1-ethoxy-3-isocyanato-2-methylbenzene described in Reference Preparation example 2737.2 g and the resulting mixtures were heated to 75° C. and were stirred for five hours. The mixtures were cooled and under ice-cooling, to the reaction mixtures was added ice water 100 mL, followed by addition of a mixture of sodium nitrite 23 g and water 150 mL, and the mixtures were acidified with concentrated hydrochloric acid to pH about 4. The mixtures were extracted with ethyl acetate and the organic layers were washed with water and saturated saline, and were dried over anhydrous magnesium sulfate and were then concentrated under reduced pressure. The resulting residues were subjected to a silica gel column chromatography to give 1-(2-methyl-3-ethoxyphenyl)-1,4-dihydrotetrazole-5-one 39.0 g.

reactant | aluminum chloride | 33.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium azide | 15 g | [N-]=[N+]=[N-].[Na+]
reactant | 1-ethoxy-3-isocyanato-2-methylbenzene | C(C)OC1=C(C(=CC=C1)N=C=O)C | C10H11NO2
reactant | sodium nitrite | 23 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 150 mL | O | H2O
solvent | N,N-dimethylformamide | 350 mL | CN(C=O)C | C3H7NO
product | 1-(2-methyl-3-ethoxyphenyl)-1,4-dihydrotetrazole-5-one | 39.0 g | CC1=C(C=CC=C1OCC)N1N=NNC1=O | C10H12N4O2
